US04458075
4-(4-Chlorophenyl)-1-[3-(6-fluoro-1,2-benzisoxazol-3-yl)propyl]-1,2,3,6-tetrahydropyridine oxalate
To 35 ml of dry dimethylformamide was added, 3.7 g of 4-(4-chlorophenyl)-1,2,3,6-tetrahydropyridine, 4.2 g of 3-(3-chloropropyl)-6-fluoro-1,2-benzisoxazole, 10 g of sodium bicarbonate, and a few crystals of potassium iodide. After stirring at 80° C. for one hr, the mixture was cooled, filtered and the filtrate was evaporated to an oil. The oil was stirred with 100 ml of water for five mins and then extracted with ether/ethyl acetate. The organic extract was washed with water (2×), saturated sodium chloride solution and dried over anhydrous magnesium sulfate. After filtering, the solvents were evaporated to an oil. The oil was dissolved in ether, filtered and treated with ethereal oxalic acid solution to give 5.2 g (56%) of product, mp 185° C. (dec). Two recrystallizations from ethyl acetate/methanol (9:1) gave the analytical sample, mp 207°-209° C. (dec).

reactant | 4-(4-chlorophenyl)-1,2,3,6-tetrahydropyridine | 3.7 g | ClC1=CC=C(C=C1)C=1CCNCC1 | C11H12ClN
reactant | 3-(3-chloropropyl)-6-fluoro-1,2-benzisoxazole | 4.2 g | ClCCCC1=NOC2=C1C=CC(=C2)F | C10H9ClFNO
reactant | sodium bicarbonate | 10 g | C([O-])(O)=O.[Na+]
reactant | potassium iodide | [I-].[K+]
reactant | dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
product | 4-(4-Chlorophenyl)-1-[3-(6-fluoro-1,2-benzisoxazol-3-yl)propyl]-1,2,3,6-tetrahydropyridine oxalate | 5.2 g, 56% | C(C(=O)O)(=O)O.ClC1=CC=C(C=C1)C=1CCN(CC1)CCCC1=NOC2=C1C=CC(=C2)F | InChI=1S/C21H20ClFN2O.C2H2O4/c22-17-5-3-15(4-6-17)16-9-12-25(13-10-16)11-1-2-20-19-8-7-18(23)14-21(19)26-24-20;3-1(4)2(5)6/h3-9,14H,1-2,10-13H2;(H,3,4)(H,5,6)
